US08461185B2
Step C: tert-butyl 3-bromo-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)benzoate
To a solution of tert-butyl 3-bromo-5-[(E)-(hydroxyimino)methyl]benzoate (5.26 g, 17.5 mmol) in N,N-dimethylformamide (80 mL)) was added N-chlorosuccinimide (2.57 g, 19.3 mmol). The reaction mixture was heated to 50° C. After 1 h, the reaction was cooled to ambient temperature and methylenecyclobutane (6.49 mL, 70.1 mmol) was added. Triethylamine (12.2 mL, 88.0 mol) was added. The mixture was stirred at ambient temperature. After 10 min, saturated aqueous NaHCO3 was added and the mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with water (2×), brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→90% hexanes/ethyl acetate) gave the title compound (2.86 g). MS 366 (M).

reactant | tert-butyl 3-bromo-5-[(E)-(hydroxyimino)methyl]benzoate | 17.5 mmol, 5.26 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)/C=N/O | C12H14BrNO3
reactant | N-chlorosuccinimide | 19.3 mmol, 2.57 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | methylenecyclobutane | 70.1 mmol, 6.49 mL | C=C1CCC1 | C5H8
reactant | Triethylamine | 88.0 mol, 12.2 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | tert-butyl 3-bromo-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)benzoate | 2.86 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NOC2(CCC2)C1 | C17H20BrNO3
